US07713979B2
3′-Chloro-4′-(1-cyclohexyl-2-oxo-pyrrolidin-3-ylmethyl)-biphenyl-2-carboxylic acid
Dissolve 3′-chloro-4′-(1-cyclohexyl-2-oxo-pyrrolidin-3-ylmethyl)-biphenyl-2-carboxylic acid ethyl ester (Preparation 81) (287 mg, 0.65 mmol) in ethanol (10 mL) and add KOH (370 mg, 6.5 mmol). Stir at room temperature for 3 days. Pour into water and extract with ether. Acidify the aqueous layer to pH 1. Extract with ether. Dry over sodium sulfate, filter and concentrate to yield 220 mg (82%) of the title compound as a pale yellow solid: Mass spectrum (apci) m/z=410.3 (M−H).

reactant | 3′-chloro-4′-(1-cyclohexyl-2-oxo-pyrrolidin-3-ylmethyl)-biphenyl-2-carboxylic acid ethyl ester | 0.65 mmol, 287 mg | C(C)OC(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)CC1C(N(CC1)C1CCCCC1)=O)Cl | C26H30ClNO3
reactant | KOH | 6.5 mmol, 370 mg | [OH-].[K+]
reactant | water | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3′-Chloro-4′-(1-cyclohexyl-2-oxo-pyrrolidin-3-ylmethyl)-biphenyl-2-carboxylic acid | 220 mg, 82% | ClC=1C=C(C=CC1CC1C(N(CC1)C1CCCCC1)=O)C=1C(=CC=CC1)C(=O)O | C24H26ClNO3
